US04921832
2-(2'-hydroxy-5'-methylphenyl)-5,6-dichlorobenzotriazole.
2-(2'-hydroxy-3'-t-butyl-5'-methylphenyl)-5- chlorobenzotriazole which are commercially available from Ciba-Geigy under the designations Tinuvin 327 and 326 respectively.

reactant | 2-(2'-hydroxy-3'-t-butyl-5'-methylphenyl)-5- chlorobenzotriazole | OC1=C(C=C(C=C1C(C)(C)C)C)N1N=C2C(=N1)C=CC(=C2)Cl | C17H18ClN3O
reactant | Tinuvin 327 | CC(C)(C)C1=CC(=C(C(=C1)N2N=C3C=CC(=CC3=N2)Cl)O)C(C)(C)C | C20H24ClN3O
product | 2-(2'-hydroxy-5'-methylphenyl)-5,6-dichlorobenzotriazole | OC1=C(C=C(C=C1)C)N1N=C2C(=N1)C=C(C(=C2)Cl)Cl | C13H9Cl2N3O
